US04886835
The procedure is as in Example 4 for the preparation of ethyl 6-phenyl-6-oxo-5-methylthio-2-dimethylamino2,4-hexadienoate, starting with N-(3-dimethylamino-3-ethoxycarbonylpropenylidene)-N-methylmethanaminium tetrafluoroborate (10 g), a 2M ethanolic solution of sodium ethylate (21 cc) and α-methylthio-4-fluoroacetophenone (6.5 g) in ethanol (100 cc). After purification by chromatography on a silica column with a mixture of cyclohexane and ethyl acetate (50:50 by volume) as eluent, ethyl 2-dimethylamino-6-(4-fluorophenyl)-5-methylthio-6-oxo-2,4-hexadienoate (9 g) is obtained in the form of an orange-coloured oil, and is used in the crude state in the subsequent syntheses.

reactant | ethyl 6-phenyl-6-oxo-5-methylthio-2-dimethylamino2,4-hexadienoate | C1(=CC=CC=C1)C(C(=CC=C(C(=O)OCC)N(C)C)SC)=O | C17H21NO3S
reactant | N-(3-dimethylamino-3-ethoxycarbonylpropenylidene)-N-methylmethanaminium tetrafluoroborate | 10 g | F[B-](F)(F)F.CN(C(=CC=[N+](C)C)C(=O)OCC)C
reactant | sodium ethylate | 21 cc | CC[O-].[Na+]
solvent | ethanol | 100 cc | C(C)O | C2H6O
product | ethyl 2-dimethylamino-6-(4-fluorophenyl)-5-methylthio-6-oxo-2,4-hexadienoate | 9 g | CN(C(C(=O)OCC)=CC=C(C(=O)C1=CC=C(C=C1)F)SC)C | C17H20FNO3S
